US07138401B2
Step 4: 2-Bromomethyl-7-chloro-benzothiazole
A mixture of 7-chloro-2-methyl-benzothiazole (1.00 g, 5.45 mmol), N-bromosuccinimide (1.26 g, 7.08 mmol), benzoyl peroxide (0.1 g), and CCl4 (10 mL was heated to reflux under irradiation of a UV lamp for 14 h. The reaction mixture was cooled and filtered to remove the succinimide formed in the reaction, and the filtrate was evaporated to dryness. The resulting solid was purified by flash chromatography to give the title lamp (400 mg, 1.5 mmol). 1H-NMR (CDCl3): δ 7.94 (d, 1H), 7.47 (t, 1H), 7.42 (d, 1H), 4.82 (s, 2H, CH2). HPLC Rt: 7.19 min.

reactant | 7-chloro-2-methyl-benzothiazole | 5.45 mmol, 1.00 g | ClC1=CC=CC=2N=C(SC21)C | C8H6ClNS
reactant | N-bromosuccinimide | 7.08 mmol, 1.26 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-7-chloro-benzothiazole | BrCC=1SC2=C(N1)C=CC=C2Cl | C8H5BrClNS
